Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male found down by EMS on street in the rain.  Patient 
admitted to heroin use, and was admitted for acute renal 
failure, in setting of rhabdomyolysis.  Initially he was 
somnolent, but began waking up over the course of the night.  
.
In the ED, initial VS: 97.5 73 154/98 8 100% on RA. Received 
4LNS total. Creatinine initially 1.8 but improved to 1.6; CK 
2294. 

This morning, the patient feels better, complaining of some back 
pain.  He denies f/c/s. He notes a long history of opiate abuse, 
and has been in and out of suboxone programs.  He states his 
last memory is shooting up and being "on ___ street."  He 
also uses Klonapin, taking several tabs over the past 2 days.  
He drinks alcohol, but prefers heroin, and denies drinking every 
day. His last drink was "probably" ___ days prior to admission, 
drinking a quarter pint of either vodka or whiskey.

He currently complains of back pain, but denies any other 
symptoms. He states he feels sleepier than usual, but "much 
better" than overnight, of which he has little memory.  He 
denies lower extremity weakness, difficulty walking to the 
bathroom, numbness, and tingling.

He states he does not usually go to doctors, and gets most of 
his medications on the street.

 
Past Medical History:
Polysubstance abuse, active
Hepatitis C, newly diagnosed ___
 
Social History:
___
Family History:
FAMILY HISTORY: Not discussed
 
Physical ___:
VS - 98.3 104/54 80 18 97% RA 154.2lbs
GENERAL - somnolent but arousable male in NAD, comfortable, 
often inappropriate comments and remarks
HEENT - small laceration over left eyebrow, sclerae anicteric, 
MMM, OP clear
NECK - supple, no JVD
LUNGS - crackles at left base, improve with deep breathing
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2
ABDOMEN - +BS, soft/NT/ND, no masses or HSM, no rebound/guarding
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)
BACK - no ecchymoses or hematomas over buttocks, tender over 
palpation of bilateral upper buttocks

Discharge:
VS - 99.3 (Tm) 140/68 83 95%RA
GENERAL - Pleasant man in NAD
HEENT - small laceration over left eyebrow, sclerae anicteric, 
MMM, pinpoint pupils, reactive to light
LUNGS - Clear bilaterally
HEART - RRR, no MRG, nl S1-S2
ABDOMEN - Soft non-tender, no HSM appreciated.
EXTREMITIES - WWP, no c/c/e, tattoo over right fingers
Neuro - str ___ b/l ___, tender to palpation over lower back, 
small, ~2cm hematoma with no eccymosis.  No focal vertebral 
tenderness.
 
Pertinent Results:
Admission:

___ 07:40AM BLOOD WBC-8.1 RBC-4.99 Hgb-15.5 Hct-47.1 MCV-94 
MCH-31.1 MCHC-32.9 RDW-14.2 Plt ___
___ 07:40AM BLOOD Neuts-59.8 ___ Monos-9.9 Eos-0.7 
Baso-0.6
___ 07:35AM BLOOD ___ PTT-33.8 ___
___ 07:40AM BLOOD Glucose-95 UreaN-31* Creat-1.8* Na-141 
K-4.2 Cl-103 HCO3-25 AnGap-17
___ 08:38PM BLOOD ALT-135* AST-124* CK(CPK)-2294* 
AlkPhos-69 TotBili-0.5
___ 07:35AM BLOOD Calcium-8.3* Phos-2.4* Mg-2.0
___ 07:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ RPR: Negative

___ Head CT: FINDINGS:  There is no evidence for intra- or 
extra-axial hemorrhage.  The ventricles, cisterns, and sulci are 
unremarkable.  There is no hydrocephalus or shift of normally 
midline structures.  The gray-white matter differentiation 
appears preserved.  Surrounding soft tissue structures are 
unremarkable.  There is no evidence of fracture.  The visualized 
paranasal sinuses and mastoid air cells appear clear.  
IMPRESSION:  No evidence for acute process or injury.

Hepatitis work-up:
___ 04:40PM BLOOD calTIBC-237* Ferritn-134 TRF-182*
___ 08:38PM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE
___ 04:40PM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 04:40PM BLOOD ___
___ 04:40PM BLOOD HIV Ab-NEGATIVE
___ 08:38PM BLOOD HCV Ab-POSITIVE*
.
LFT AND CK TRENDS:
___ 08:38PM BLOOD ALT-135* AST-124* CK(CPK)-2294* 
AlkPhos-69 TotBili-0.5
___ 07:35AM BLOOD CK(CPK)-5441*
___ 04:40PM BLOOD ALT-130* AST-173* CK(CPK)-3631* 
AlkPhos-62 TotBili-0.4
___ 07:50AM BLOOD ALT-135* AST-149* CK(CPK)-2532* 
AlkPhos-64 TotBili-0.3
.
Discharge labs:

___ 07:50AM BLOOD WBC-6.9 RBC-4.43* Hgb-14.3 Hct-42.2 
MCV-95 MCH-32.3* MCHC-34.0 RDW-14.2 Plt ___
___ 07:50AM BLOOD ___ PTT-31.0 ___
___ 07:50AM BLOOD Glucose-91 UreaN-16 Creat-1.1 Na-143 
K-4.1 Cl-110* HCO3-27 AnGap-10
___ 07:50AM BLOOD Calcium-8.5 Phos-2.8 Mg-1.4*
.
====
PENDING LABS TO BE FOLLOWED-UP AT OUTPATIENT LIVER APPOINTMENT:
___ 04:40PM BLOOD HEPATITIS C VIRAL RNA, GENOTYPE-PND
___ 04:40PM BLOOD IGG SUBCLASSES 1,2,3,4-PND
___ 4:40 pm IMMUNOLOGY HCV VIRAL LOAD (Pending): 
 
Brief Hospital Course:
SUMMARY:  ___ year old man with active IV drug abuse admitted 
after heroin overdose and subsequent rhabdomyolysis, with newly 
diagnosed hepatitis C.

# Rhabdomyolysis and acute renal failure:  CK peaked in 5000s, 
trending down at discharge. Creatinine peaked at 1.8, improved 
to 1.1 at discharge.  Was given significant IV fluids. Currently 
creatinine is improving. CK also downtrending.
.
# Substance abuse:  Active user of heroin, benzodiazepines, 
alcohol, and tobacco. Currently is not interested in inpatient 
treatment.  Monitored on CIWA but was not scoring.  Did show 
signs of opiate withdrawal.
.
# Hepatitis C: Newly diagnosed this admission. Patient stated he 
would like to follow-up care at ___ and an 
appointment was made. Several studies including IgG subclasses, 
HCV viral load and genotype should be followed-up at this 
appointment.  HIV and other hepatitis work-up was negative.  He 
was counseled extensively regarding this diagnosis, including 
that he can transmit the virus to others, primarily through 
sharing needles.
.
# Back pain: Likely secondary to fall, no neurological changes. 
Improving at time of discharge.
.
================
TRANSITIONAL ISSUES:
-Patient an active IVDU, who was not interested in inpatient 
detox or or other substance abuse treatment at this time.
-Newly diagnosed Hepatitis C, needs follow/up of several pending 
studies at hepatology follow-up appointment.
-HIV negative by serology at this time
-Patient was extensively counseled that he has several lab tests 
pending, which he should have followed-up at his Hepatology 
appointment next month. The importance of this visit was 
stressed.
-He was encourages to drink plenty of fluids, but not alcohol.
-Notable labs on last check here: ALT 135, AST 149, CK 3532, 
Albumin 2.9.
 
Medications on Admission:
Reports suboxone, gabapentin, klonapin, and seroquel use, none 
of which he has an active prescription for. 
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rhabdomyolysis
Acute renal failure
Substance abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after being found unconscious. This was likely 
related to a heroin overdose.  Because of this, your muscles 
began to break-down, releasing a number of dangerous substances 
into your blood, which injured your kidneys.  The treatment for 
this was to monitor your labs and give you a significant amount 
of fluid through the veins.

As you know, continued heroin, alcohol, tobacco, and other drug 
use is extremely dangerous to your health.  We have provided you 
with some resources to seek treatment to help with your 
addiction.  We all strongly encourage you to seek treatment to 
prevent serious consequences, that include death.

You also tested positive for hepatitis C. As we discussed, it 
will be extremely important to follow-up with the liver doctors, 
as scheduled below. There are a number of tests that are still 
pending, which makes it even more important to follow-up with 
the liver specialists.

Please know that if you continue to share needles, you run the 
risk of passing hepatitis C onto others.  You tested negative 
for HIV today, however you should know that continued IV drug 
use especially when sharing needles, puts you at a high risk of 
contracting HIV.
 
Followup Instructions:
___